US09056874B2
4-Nitro-1-tosyl-1H-indole
To a suspension of 4-nitro-1H-indole (CAS #: 4769-97-5) (10.4 g, 64.1 mmol) in DMF (401 mL) at 0° C. was added NaH (60% in mineral oil, 3.85 g, 96 mmol), and the mixture was stirred at 0° C. After 15 minutes, to the red suspension was added TsCl (14.67 g, 77 mmol). The reaction turned yellow and was warmed to room temperature. After 15 minutes the reaction was quenched by ice/H2O, and the mixture was stirred for 30 minutes at room temperature. The precipitate was collected by filtration to provide the title compound, which was used in the next reaction without any further purification. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.43 (d, J=8.34 Hz, 1H) 8.15-8.29 (m, 2H) 7.96 (m, 2H) 7.60 (t, J=8.21 Hz, 1H) 7.42 (m, J=7.83 Hz, 2H) 7.26-7.38 (m, 1H) 2.33 (s, 3H)

reactant | 4-nitro-1H-indole | 64.1 mmol, 10.4 g | [N+](=O)([O-])C1=C2C=CNC2=CC=C1 | C8H6N2O2
reactant | NaH | 96 mmol, 3.85 g | [H-].[Na+]
reactant | TsCl | 77 mmol, 14.67 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | DMF | 401 mL | CN(C)C=O | C3H7NO
product | 4-Nitro-1-tosyl-1H-indole | [N+](=O)([O-])C1=C2C=CN(C2=CC=C1)S(=O)(=O)C1=CC=C(C)C=C1 | C15H12N2O4S
